US06440636B1
A mixture of 300 mmole of the above-prepared 3,5-dihydroxy-1-adamantanecarboxylic acid, 450 mmole of n-butanol, 15 mmole of sulfuric acid, and 900 ml of toluene was stirred under reflux of toluene for 5 hours. The reaction mixture was concentrated and was then subjected to column chromatography on a silica gel to yield n-butyl 3,5-dihydroxy-adamantanecarboxylate.

reactant | 3,5-dihydroxy-1-adamantanecarboxylic acid | 300 mmole | OC12CC3(CC(CC(C1)(C3)O)C2)C(=O)O | C11H16O4
reactant | n-butanol | 450 mmole | C(CCC)O | C4H10O
reactant | sulfuric acid | 15 mmole | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
product | n-butyl 3,5-dihydroxy-adamantanecarboxylate | OC12CC3(CC(CC(C1)(C3)O)C2)C(=O)OCCCC | C15H24O4
